US06683081B2
4-Amino-5-cyclopentyl-4H-1,2,4-triazole-3-thiol
34.29 g (323 mmol) of finely mortared thiocarbohydrazide are suspended in 38.5 ml (355.3 mmol) of cyclopentanecarboxylic acid and the suspension is heated at 165° C. for 20 min. During this, the water produced in the reaction is distilled off until a yellowish condensate appears. After cooling down, 250 ml of dichloromethane/methanol 95:5 are added to the suspension and the precipitate is filtered off. The filtrate is concentrated and subject to column filtration on silica gel (dichloromethane/methanol 98:2). After drying under high vacuum, the product is obtained as a colorless solid.

reactant | thiocarbohydrazide | NNC(=S)NN | CH6N4S
reactant | cyclopentanecarboxylic acid | 355.3 mmol, 38.5 ml | C1(CCCC1)C(=O)O | C6H10O2
solvent | water | O | H2O
product | 4-Amino-5-cyclopentyl-4H-1,2,4-triazole-3-thiol | NN1C(=NN=C1C1CCCC1)S | C7H12N4S
